US07378417B2
5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.9) and 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine [CAS 436095-35-1] according to general procedure II. Yellow solid. MS (ISP) 613.3 [(M+H)+]; mp 181° C.

reactant | 5-(3,4-dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C14H6Cl2F3N3O2
reactant | 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H17N3O2S
product | 5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)Cl)Cl | C25H21Cl2F3N6O3S
